US08685964B2
Step 1: 6-((E)-2-Dimethylaminovinyl)pyridine-2-carbonitrile
20 g (169 mmol) of 6-methylpyridine-2-carbonitrile were reacted in a mixture of in each case 100 ml of DMF and DMF-dimethyl acetal in an autoclave at 175° C. overnight. After cooling, the mixture was concentrated by evaporation, the residue was dissolved in dichloromethane, the solution was filtered, the filtrate was concentrated and the residue was subjected to distillation under reduced pressure in a kugelrohr.

reactant | 6-methylpyridine-2-carbonitrile | 169 mmol, 20 g | CC1=CC=CC(=N1)C#N | C7H6N2
reactant | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 6-((E)-2-Dimethylaminovinyl)pyridine-2-carbonitrile | CN(/C=C/C1=CC=CC(=N1)C#N)C | C10H11N3
